US06235771B1
In toluene/ethanol/water (10/1/1.2 ml) was dissolved methyl 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (730 mg), and to the solution were added 4-(butylthio)phenyl borate (780 mg) and potassium carbonate (620 mg). The mixture was stirred at room temperature for 30 minutes. To the mixture was added tetrakistriphenylphosphinepalladium (127 mg), and the mixture was stirred at 90° C. for 16 hours, cooled to room temperature, extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate=2/1) to give methyl 7-[(4-butylthio)phenyl]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (680 mg).

reactant | methyl 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 730 mg | BrC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C12H11BrO4S
reactant | 4-(butylthio)phenyl borate | 780 mg | B(OC1=CC=C(C=C1)SCCCC)([O-])[O-]
reactant | potassium carbonate | 620 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene ethanol water | 1.2 ml | C1(=CC=CC=C1)C.C(C)O.O
catalyst | tetrakistriphenylphosphinepalladium | 127 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 7-[(4-butylthio)phenyl]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 680 mg | CCCCSC1=C(C=CC=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C22H24O4S2
